US06818766B2
Step 1: (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2-methylacrylate (10, R=menthyl)
In a 100 ml flask, equipped with a magnetic stirrer, 5.0 g of L-(−)-menthol and 3.51 g of methacryloyl chloride were added to a solution of 6.67 ml of triethylamine in 30 ml of dichloromethane at room temperature. The clear solution turned turbid after a few minutes (exothermic reaction). After 4 hours, the suspension was extracted with 25 ml of 0.5 N HCl, 25 ml of water, 25 ml of saturated aqueous NaHCO3 and 25 ml of brine to give a clear orange solution (after drying over Na2SO4). Concentrating at reduced pressure gave a light brown/orange oil, which was stored overnight at 4° C. Purification by column chromatography (eluens: ethyl acetate/heptane=1/4) gave 5.30 g (73.8%) of a colourless oil. 1H-NMR confirmed the expected structure.

reactant | L-(−)-menthol | 5.0 g | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
reactant | methacryloyl chloride | 3.51 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | 6.67 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2-methylacrylate | 5.30 g, 73.8% | CC(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)=C | C14H24O2
